US04521241
A mixture of 5.5 g of 1,3-dihydrobenzo[c]thiophene-4-sulfonamide, 2.5 g of butyl isocyanate and 0.05 g of DABCO® in 50 ml of xylene was heated to 135° and 2.2 ml of liquid phosgene was added in small portions at approximately 135°. When the addition of phosgene was complete, heating was continued for 5 minutes before the dark brown suspension was cooled to ambient temperature under a slow stream of nitrogen. The reaction mixture was filtered under nitrogen and the filtrate was concentrated in vacuo to give 1,3-dihydrobenzo[c]thiophene-4-sulfonyl isocyanate as a dark red-brown oil. The crude sulfonyl isocyanate was dissolved in methylene chloride (total volume=26 ml) for reaction with aminoheterocycles.

reactant | 1,3-dihydrobenzo[c]thiophene-4-sulfonamide | 5.5 g | C1SCC2=C1C=CC=C2S(=O)(=O)N | C8H9NO2S2
reactant | butyl isocyanate | 2.5 g | C(CCC)N=C=O | C5H9NO
reactant | DABCO | 0.05 g | C1CN2CCN1CC2 | C6H12N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,3-dihydrobenzo[c]thiophene-4-sulfonyl isocyanate | C1SCC2=C1C=CC=C2S(=O)(=O)N=C=O | C9H7NO3S2
